US07662771B2
4-[2-(2-hydroxy-phenyl)-4-methyl-oxazol-5-yl]-butyric acid methyl ester
Dissolve 4-[2-(2-methoxy-phenyl)-4-methyl-oxazol-5-yl]-butyric acid methyl ester (2.1 g, 7.3 mmol) in CH2Cl2 (20 mL) under nitrogen at room temperature. Add boron tribromide (1M in CH2Cl2, 21.8 mL) and stir at room temperature until the reaction is complete. Quench the mixture with methanol, add water and extract with CH2Cl2. Dry the combined extracts over Na2SO4 and concentrate. Chromatograph the resulting residue over silica gel (MeOH/CH2Cl2) to allow for isolation of 4-[2-(2-hydroxy-phenyl)-4-methyl-oxazol-5-yl]-butyric acid-methyl ester (1.55 g, 77%). MS (ES): (M+1)+ 276.1, 277.2 m/z.

reactant | 4-[2-(2-methoxy-phenyl)-4-methyl-oxazol-5-yl]-butyric acid methyl ester | 7.3 mmol, 2.1 g | COC(CCCC1=C(N=C(O1)C1=C(C=CC=C1)OC)C)=O | C16H19NO4
reactant | boron tribromide | 1M, 21.8 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-[2-(2-hydroxy-phenyl)-4-methyl-oxazol-5-yl]-butyric acid methyl ester | COC(CCCC1=C(N=C(O1)C1=C(C=CC=C1)O)C)=O | C15H17NO4
